US08076359B2
Step 2: Methyl 3,5-bis[(1E)-3-methoxyprop-1-en-1-yl]benzoate
To a solution of methyl 3,5-dibromobenzoate (1 eq.) from the previous step in DMF (0.2 M) was added 2-[(1E)-3-methoxyprop-1-en-1-yl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (2.1 eq.), palladium acetate (10 mol %), triphenylphosphine (30 mol %), and 2.0 M aqueous sodium carbonate solution (5 eq.). The reaction was heated to 80° C. and stirred for 3 h. After cooling to rt, the reaction was diluted with ether. The organic extract was washed with water, brine, dried over MgSO4, and concentrated in vacuo. The crude product was purified by flash column chromatography (SiO2, 20% EtOAc in Hex) to afford the title compound as an oil.

reactant | methyl 3,5-dibromobenzoate | 1 eq. | BrC=1C=C(C(=O)OC)C=C(C1)Br | C8H6Br2O2
reactant | 2-[(1E)-3-methoxyprop-1-en-1-yl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 2.1 eq. | COC/C=C/B1OC(C(O1)(C)C)(C)C | C10H19BO3
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium carbonate | 2.0 M, 5 eq. | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 0.2 M | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
catalyst | palladium acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Methyl 3,5-bis[(1E)-3-methoxyprop-1-en-1-yl]benzoate | COC/C=C/C=1C=C(C(=O)OC)C=C(C1)\C=C\COC | C16H20O4
